data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-F_2-C#N_3-C#N_4-C2CCCCC2_5-C_6-c2ccc(OC)cc2_7-C","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(C#N)C(=O)C2CCCCC2)(F)C#N","C(C)(c2ccc(OC)cc2)C(=O)C"],"products_smiles": ["C1(=C(C2CCCCC2)C(=O)C(C(F)(C#N)C1(C)c2ccc(OC)cc2)C#N)C"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)c2ccc(OC)cc2)([O-])C","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(F)(C#N)C(=C([O-])CC2CCCCC2)C#N)(C)c2ccc(OC)cc2)C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(F)(C#N)C(C#N)C(=O)CC2CCCCC2)(C)c2ccc(OC)cc2)C","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(F)(C#N)C(C#N)C([O-])=CC2CCCCC2)(C)c2ccc(OC)cc2)C","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C2CCCCC2)C(=O)C(C(F)(C#N)C1(C)c2ccc(OC)cc2)C#N)(C)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C2CCCCC2)=C([O-])C(C(F)(C#N)C1(C)c2ccc(OC)cc2)C#N)(C)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C2CCCCC2)C(=O)C(C(F)(C#N)C1(C)c2ccc(OC)cc2)C#N)C","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-337_1-c2ccccc2_2-N(C)C_3-C#N_4-c2cccs2_5-C(=O)OC","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(c2ccccc2)c(N(C)C)c(C#N)c(c2cccs2)c1C(=O)OC","N#C[Cu]"],"products_smiles": ["c1(C#N)c(c2ccccc2)c(N(C)C)c(C#N)c(c2cccs2)c1C(=O)OC"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(c2ccccc2)c(N(C)C)c(C#N)c(c2cccs2)c1C(=O)OC","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(c2ccccc2)c(N(C)C)c(C#N)c(c2cccs2)c1C(=O)OC","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
